US04665174
Into the same flask as used in Example 1, 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone (15.2 g), isopropylmercaptan (20 g), triethylamine (1 g) and toluene (45 g) were charged, and the mixture was stirred under a nitrogen stream at a temperature of 40° to 70° C. for 5 hours. After completion of the reaction, the mixture was washed with an acid, an alkali and water in order. The organic layer was separated and concentrated to give 2-allyl-3-methyl-4-isopropylthio-2-cyclopentenone (20.2 g). Yield, 96.3%. The product was purified by silica gel chromatography using toluene-ethyl acetate (10:1 by volume). nD20 1.5196.

reactant | 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone | 15.2 g | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | isopropylmercaptan | 20 g | C(C)(C)S | C3H8S
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 45 g | C1(=CC=CC=C1)C | C7H8
product | 2-allyl-3-methyl-4-isopropylthio-2-cyclopentenone | 20.2 g | C(C=C)C=1C(CC(C1C)SC(C)C)=O | C12H18OS
